US07795247B2
Step 1: methyl 2-(2-{[(tert-butoxycarbonyl)amino]methyl}-4-fluorophenyl)-3-cyclohexyl-1H-indole-6-carboxylate
To a solution of methyl 2-bromo-3-cyclohexyl-1H-indole-6-carboxylate (prepared as described in published International patent application WO2004/087714, from commercially available methyl indole-6-carboxylate) in dioxane (0.07 M) was added 0.2 eq of bis(triphenylphosphine)palladium(II) dichloride at RT under a nitrogen atmosphere. Then aqueous Na2CO3 (2 M solution, 2 eq.) and [2-(N-tert-butoxycarbonyl-amino-methyl)-4-fluorophenyl]-boronic acid (2 eq.) were added and the reaction flask immersed in a preheated oil bath at 100° C. for 2 h. The reaction mixture was allowed to cool and filtered. The filtrate was diluted with DCM and the organic phase washed with H2O, brine and dried over Na2SO4 before being filtered and concentrated in vacuo. The crude material was purified by flash chromatography (1:9 EtOAc/PE) to afford the title compound as a solid (87%); MS (ES+) m/z 481 (M+H)+.

reactant | methyl 2-bromo-3-cyclohexyl-1H-indole-6-carboxylate | BrC=1NC2=CC(=CC=C2C1C1CCCCC1)C(=O)OC | C16H18BrNO2
reactant | methyl indole-6-carboxylate | N1C=CC2=CC=C(C=C12)C(=O)OC | C10H9NO2
reactant | Na2CO3 | 2 M, 2 eq. | C(=O)([O-])[O-].[Na+].[Na+]
reactant | [2-(N-tert-butoxycarbonyl-amino-methyl)-4-fluorophenyl]-boronic acid | 2 eq. | C(C)(C)(C)OC(=O)NCC1=C(C=CC(=C1)F)B(O)O | C12H17BFNO4
solvent | dioxane | 0.07 M | O1CCOCC1 | C4H8O2
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 0.2 eq | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | methyl 2-(2-{[(tert-butoxycarbonyl)amino]methyl}-4-fluorophenyl)-3-cyclohexyl-1H-indole-6-carboxylate | 87% | C(C)(C)(C)OC(=O)NCC1=C(C=CC(=C1)F)C=1NC2=CC(=CC=C2C1C1CCCCC1)C(=O)OC | C28H33FN2O4
